data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC2=C(C=C1)C3=C(C2COC(=O)NC[C:20](=[O:21])Cl)C=CC=C3.C1=C(C=C(C(=C1)[NH2:10])I)Cl.C(=O)([O-])[O-].[K+]>>C1=CC2=C(C=C1)C3=C(C2COC(=O)NC[C:20]([NH2+:10]C4=CC=C(C=C4I)Cl)([O-:21])Cl)C=CC=C3.C(=O)([O-])[O-].[K+] 10=20;20,21=21
CC[N+]1=[C:21](SC(=C1C)CCO)[C:20](CCC(=O)C)(C2=CC=C(C=C2)C)[O-:10].CC[NH+](CC)CC.[Br-]>>CC[N+]1=[C-:21]SC(=C1C)CCO.CC1=CC=C(C=C1)[C:20](=[O:10])CCC(=O)C.CC[NH+](CC)CC.[Br-] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC1CC(=NOC(=[O:10])C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C>>[H:20][O+:10]=C(C(F)(F)F)ON=C1CC(C2(C1(C3=CCC4CC(CCC4(C3CC2)C)O)C)C)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C[C:10](=[C:11](C)[O-:12])C.[CH3:20][Br:21]>>C[C:11](=[O:12])[C:10](C)(C)[CH3:20].[Br-:21] 10,11=10,20;20,21=21;12=11
CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)O[Si-:10](C)(C)(C(C)(C)C)[Cl:11])COCC3=CC=C(C=C3)OC.[Li+].CC(C)C>>CC(C)(C)[Si:10](C)(C)OC(CC1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)O[Si](C)(C)C(C)(C)C)COCC3=CC=C(C=C3)OC.[Cl-:11].[Li+].CC(C)C 10,11=11
CN(C)[C:20](=[O:21])OCCC[O-:10]>>CN(C)[C:20]1(OCCC[O:10]1)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC[O:10][AlH3-:11]>>[H:20][O:10]CCC.[OH2:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][O:21]C1CCC2(CC1(CCC3C2CC3(C)C)OC)CCCC.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCCCC12CCC(C(C1)(CCC3C2CC3(C)C)OC)[O-:21] 10=20;20,21=21
C[CH:20]=[NH2+:21].[OH2:10]>>C[CH:20]([NH2:21])[OH2+:10] 10=20;20,21=21
CC1CC(C(CO1)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)[Cl+:11][Ti-2:10]4(OCC[O+]4C)(Cl)(Cl)Cl>>CC1CC(C(CO1)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)[Cl:11].C[O+]1CCO[Ti-:10]1(Cl)(Cl)Cl 10,11=11
[H:20][OH:21].C[CH:10]=[CH:11][O-:12]>>[H:20][CH:10](C)[CH:11]=[O:12].[OH-:21] 10,11=10,20;20,21=21;12=11
[CH3:20][O:21][P+:22](C)(C)O.[Cl-:10]>>C[P:22](=[O:21])(C)O.[CH3:20][Cl:10] 10=20;20,21=21,22
C[C:20](=[O:21])CCC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2.C1=CC(=CC(=C1)[NH2:10])S(=O)(=O)N.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)O>>C[C:20](CCC(=O)C1=C(C=CC(=C1)Cl)OCC2=CC=CC=C2)([NH2+:10]C3=CC=CC(=C3)S(=O)(=O)N)[O-:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C1=C(C=C(C(=C1Br)O)Br)C[N:10]2[CH:20]=[N:21][C:22]3=[C:23]([C:24]2=[NH2+:25])NC(=O)N3C4C(C(C(O4)CO)O)O.[OH-].[Br-]>>C1=C(C=C(C(=C1Br)O)Br)C[N+:10]2=[CH:20][N:21]=[C:22]3[C:23](=[C:24]2[NH2:25])NC(=O)N3C4C(C(C(O4)CO)O)O.[OH-].[Br-] 10=20;20,21=21,22;22,23=23,24;24,25=25
CC1[CH:20]([O:21]1)[O-:10]>>CC([CH:20]=[O:10])[O-:21] 10=20;20,21=21
C1C[CH+:20]CCC[C:10]#[C:11]C1.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-]>>C1C[C+:11]=[C:10]2CCC[CH:20]2C1.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-] 10,11=10,20
[H:20][N+:21]1=CC=CC=C1.C1CC(CCC1N2C=C(C=N2)I)(O)[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][O+:10](CCO)C1(CCC(CC1)N2C=C(C=N2)I)O.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
CN(C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)C(=O)C(=C([O-])OC)[N:10]=[N:20][NH:21]S(=O)(=O)C.CC[NH+](CC)CC>>CN(C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)C(=O)C(=C([O-])OC)[N+:10]#[N:20].CS(=O)(=O)[NH-:21].CC[NH+](CC)CC 10=20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]=[S+:21]C)OCC3=CC=CC=C3)C.[OH2:10].C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-]>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]([OH2+:10])[S:21]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
C[C:20]1([OH+:21]CCC[O:10]1)C>>C[C:20](=[O+:10]CCC[OH:21])C 10=20;20,21=21
CC1=CC=C(C=C1)[S:21](=O)(=O)[N-:20][N:10]=C(C2=CC=CC=C2)C(C)(C)C.C1=CC=C(C=C1)C(=O)C(F)(F)F.C(=O)(O)[O-]>>CC1=CC=C(C=C1)[S-:21](=O)=O.CC(C)(C)C(=[N+:10]=[N-:20])C1=CC=CC=C1.C1=CC=C(C=C1)C(=O)C(F)(F)F.C(=O)(O)[O-] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C#N.O[S+:20](=O)=O>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[S:20](=O)(=O)O)C#N 10,11=10,20
[CH:10]1=[CH:11]OC(=C1)C(F)(F)F.[Br:20][Br:21]>>C1=C(O[CH+:11][CH:10]1[Br:20])C(F)(F)F.[Br-:21] 10,11=10,20;20,21=21
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCNC(C2)C3(CCC=C4)O)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
[H:20][O+:21](C(C)CC)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CCC(C)[O:21][Si-](C)(C)(C)Cl 10=20;20,21=21
C1CC[C:20](=[O+:21]CC[OH:10])C(C1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O>>C1CC[C:20]2(C(C1)O)[OH+:10]CC[O:21]2.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(=O)CC1C(=O)CCCC1([NH3+])[O-:10]>>[H:20][O:10]C1(CCCC(=O)C1CC(=O)C)[NH3+].CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CS(=[O:10])C>>[H:20][O+:10]=S(C)C.[OH2:21] 10=20;20,21=21
[B:20](OC1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[OH-:10].CBr.O>>[B-:20]([OH:10])(OC1=C2C3=C(CC4C5(C3(CCN4CC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O 10=20,
CC(C(C)[Si:20](C)(C)C)[O-:10].[HH].[K+]>>CC1C([Si-:20]([O:10]1)(C)(C)C)C.[HH].[K+] 10=20,
C[C:20](C(=O)[N:12](C)[C:11]1=[CH:10]C=CC=C1)([N+:21]#N)Br.C1CC(=O)[N-]C1=O>>C[C:20]1([CH:10]2C=CC=C[C:11]2=[N+:12](C1=O)C)Br.N#[N:21].C1CC(=O)[N-]C1=O 10,11=10,20;20,21=21;12=11
